US08748626B2
To a solution of (5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)methanol (966 mg, 3.21 mmol) in dichloromethane (16 mL) was added Dess-Martin periodinane (2.04 mg, 4.81 mmol). The reaction mixture was stirred at room temperature for overnight. 20 mL of saturated NaHCO3 solution and saturated Na2S2O3 solution (8:1) was added for quenching the reaction. After stirred for 1 h, the reaction mixture was extracted by EtOAc. The organic layers was washed with water and brine, dried over anhydrous Na2SO4, filtered, and concentrated. The crude product was purified by automatic column chromatography to yield 5-benzyl-2-(2,5-difluorophenyl)oxazole-4-carbaldehyde (898 mg, 94%) as white solid. 1H NMR (CD3Cl, 400 MHz): δ 10.0 (1H, s), 7.70 (1H, m), 7.37-7.31 (3H, m), 7.29-7.25 (2H, m), 7.19-7.14 (2H, m), 4.44 (2H, s). LC/MS (uplc): 300.0, 1.06 min.

reactant | (5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)methanol | 3.21 mmol, 966 mg | C(C1=CC=CC=C1)C1=C(N=C(O1)C1=C(C=CC(=C1)F)F)CO | C17H13F2NO2
reactant | Dess-Martin periodinane | 4.81 mmol, 2.04 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | 5-benzyl-2-(2,5-difluorophenyl)oxazole-4-carbaldehyde | 898 mg, 94% | C(C1=CC=CC=C1)C1=C(N=C(O1)C1=C(C=CC(=C1)F)F)C=O | C17H11F2NO2
